US07365085B2
f. N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-[3-(2-methyl-2-aminopropyl)phenoxy]propylamine, dihydrochloride
A solution of N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-2,2-dimethyl-3-(3-aminopropoxy)phenylpropionic acid, hydrochloride (158 mg, 0.24 mmole) in 10 mL of Me2CO was treated with Et3N (56 mg, 0.55 mmole) and cooled in an ice bath. A solution of isobutylchloroformate (37 mg, 0.27 mmole) in 2 ml of Me2CO was added dropwise to the cold solution, and the reaction was stirred at 0° for 30 minutes. A solution of NaN3 (40 mg, 0.6 mmole) in 2 mL of H2O was added to the cold solution, and stirring was continued for 30 minutes. The reaction was diluted with H2O, and extracted with Et2O. The extracts were washed with H2O, and dried. The ethereal solution of the acyl azide was slowly added with stirring to 50 mL of refluxing toluene. After the addition, the toluene solution is stirred at 105° for 30 minutes, and all the solvents are removed. The residue is dissolved in 5 mL of dioxane, treated with 5 mL of 6N HCl and heated at 100° for 30 minutes. The reaction was cooled, diluted with H2O, made basic with aqueous NaOH and extracted with Et2O. The extracts were washed with H2O, dried, and the solvents removed. The residue was chromatographed on a silica gel column and the product was eluted with 10% MeOH in EtOAc. The chromatographed product was converted to the dihydrochloride salt in Et2O and isopropanol with 4N HCl in dioxane, and gave the titled product, 78 mg (55% yield). MS (ESI) 596 (MH+).

reactant | N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-2,2-dimethyl-3-(3-aminopropoxy)phenylpropionic acid, hydrochloride | 0.24 mmole, 158 mg | Cl.C1(=CC=CC=C1)C(CN(CCCOC=1C(C(C=CC1)C(C(=O)O)C)(C)C)CC1=C(C(=CC=C1)C(F)(F)F)Cl)C1=CC=CC=C1
reactant | Et3N | 0.55 mmole, 56 mg | CCN(CC)CC | C6H15N
reactant | isobutylchloroformate | 0.27 mmole, 37 mg | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | NaN3 | 0.6 mmole, 40 mg | [N-]=[N+]=[N-].[Na+]
solvent | H2O | 2 mL | O | H2O
product | N-(2,2-Diphenylethyl)-N-(2-chloro-3-trifluoromethylbenzyl)-3-[3-(2-methyl-2-aminopropyl)phenoxy]propylamine, dihydrochloride | 55% yield | Cl.Cl.C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCOC1=CC(=CC=C1)CC(C)(N)C)C1=CC=CC=C1 | InChI=1S/C35H38ClF3N2O.2ClH/c1-34(2,40)23-26-12-9-18-30(22-26)42-21-11-20-41(24-29-17-10-19-32(33(29)36)35(37,38)39)25-31(27-13-5-3-6-14-27)28-15-7-4-8-16-28;;/h3-10,12-19,22,31H,11,20-21,23-25,40H2,1-2H3;2*1H
